US07842685B2
A mixture of copper(I) iodide (0.0159 g, 0.0835 mmol), cesium fluoride (0.380 g, 2.50 mmol), (1-bromovinyl)cyclohexane (0.947 g, 5.01 mmol), tetrakis(triphenylphosphine) palladium (0) (0.0965 g, 0.0835 mmol), and 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(trimethylstannyl)-thiazolo[5,4-b]pyridine (0.800 g, 1.67 mmol) in 7.5 mL DMF was heated at 55° C. for several hours. The reaction mixture was cooled, diluted with EA, and filtered through celite. The organic layer was washed with water, brine, dried over sodium sulfate, filtered, and concentrated in vacuo to give a solid, which was adsorbed onto silica gel and purified by silica gel chromatography, 0-40-100% EA/hexanes to give 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-cyclohexylvinyl)thiazolo[5,4-b]pyridine as an off white solid. MS (ESI) m/z: calculated: 424.2; Observed: 425.1 (M++1).

reactant | cesium fluoride | 2.50 mmol, 0.380 g | [F-].[Cs+]
reactant | (1-bromovinyl)cyclohexane | 5.01 mmol, 0.947 g | BrC(=C)C1CCCCC1 | C8H13Br
reactant | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(trimethylstannyl)-thiazolo[5,4-b]pyridine | 1.67 mmol, 0.800 g | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)[Sn](C)(C)C)F
solvent | DMF | 7.5 mL | CN(C)C=O | C3H7NO
solvent | EA | CC(OCC)=O | C4H8O2
catalyst | copper(I) iodide | 0.0835 mmol, 0.0159 g | [Cu]I
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.0835 mmol, 0.0965 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-cyclohexylvinyl)thiazolo[5,4-b]pyridine | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C(=C)C1CCCCC1)F | C24H25FN2O2S
